US06117910
d) 2-Amino-6-hydroxy-1-tetralone, hydrobromide
A mixture of 2-amino-6-methoxy-1-tetralone hydrochloride (2 g, 8.79 mmol) and 48% hydrobromic acid (60 mL) was stirred at 100° C. for 2 hours and then increased to 130° C. for additional 100 minutes. The resulting solution was concentrated. The crude product was subjected to re-evaporation with dry toluene and hexane. Upon adding a small amount of ethanol and hexane, a white salt precipitated which was removed. Upon concentrating the filtrate, a purple solid (1.43 g, 63%) resulted.

reactant | 2-amino-6-methoxy-1-tetralone hydrochloride | 8.79 mmol, 2 g | Cl.NC1C(C2=CC=C(C=C2CC1)OC)=O
reactant | hydrobromic acid | 60 mL | Br | BrH
product | 2-Amino-6-hydroxy-1-tetralone, hydrobromide | 1.43 g, 63% | Br.NC1C(C2=CC=C(C=C2CC1)O)=O | InChI=1S/C10H11NO2.BrH/c11-9-4-1-6-5-7(12)2-3-8(6)10(9)13;/h2-3,5,9,12H,1,4,11H2;1H
